US07858796B2
(263) 3-(1-{[3-(ethyloxy)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide
3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide (60 mg, 0.129 mmol) was reacted with sodium ethoxide (0.5 M in ethanol, 0.5 mL, 0.25 mmol) in a mixture of ethanol (5 ml) and DMSO (0.2 mL) at reflux for 16 h to form the desired product which was purified by reverse phase HPLC eluting with 10% B to 70% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (10 mg, 17%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide | 0.129 mmol, 60 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C21H24ClN3O3S2
reactant | sodium ethoxide | 0.25 mmol, 0.5 M, 0.5 mL | [O-]CC.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 3-(1-{[3-(ethyloxy)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide | C(C)OCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C23H29N3O4S2
